US05344843
A solution of 2-methoxythiophene (2.28 g) and 2-(2-naphthalenyloxy)ethanol (4.0 g) in benzene (35 mL) containing para-toluenesulfonic acid (0.02 g) was stirred at reflux for 3 days in a flask equipped with a Soxhlet extractor charged with 4 Å molecular sieves. The mixture was cooled, washed with 0.5N sodium hydroxide solution, dried over anhydrous magnesium sulfate (MgSO4) and evaporated. Crystallization of the residual material from ethanol (30 mL) provided 2.68 g of 2-[[2-(2-naphthalenyloxy)ethyl]oxy]thiophene as colorless flakes, mp 129°-130 ° C.

reactant | 2-methoxythiophene | 2.28 g | COC=1SC=CC1 | C5H6OS
reactant | 2-(2-naphthalenyloxy)ethanol | 4.0 g | C1=C(C=CC2=CC=CC=C12)OCCO | C12H12O2
solvent | benzene | 35 mL | C1=CC=CC=C1 | C6H6
catalyst | para-toluenesulfonic acid | 0.02 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-[[2-(2-naphthalenyloxy)ethyl]oxy]thiophene | 2.68 g | C1=C(C=CC2=CC=CC=C12)OCCOC=1SC=CC1 | C16H14O2S
